US05612371
Example 3: Preparation of ethyl N-(E)-[1-oxo-2-(acetylthiomethyl)-3-phenylpropenyl]-β-alaninate
The (E)-2-acetylthiomethyl-3-phenylpropenoic acid described in Example 1 (step C) is coupled with ethyl β-alaninate according to the experimental procedure described in Example 1 (step D). Yield=68% (chromatography on silica, eluent: ether/petroleum ether 6/4) m.p.<50° C. IR (nujol): 3300, 1730, 1690, 1640, 1610 cm-1 1H NMR: (CDCl3 /TMS)=7.20, (s, 5H); 6.75 (s, 1H); 6.00 (broad s, 1H); 3.95 (q, 2H, J=6, 7 Hz); 3.85 (s, 2H); 3.40 (q app., 2H, J app.=6.2 Hz); 2.30 (t, 2H, J=6.7 Hz); 2.30 (s, 3H); 1.15 (t, 3H, J=6.7 Hz). Microanalysis: C17H21O4NS Calc. % C=60.87 H=6.31 N=4.18 Found. % C=60.12 H=6.22 N=3.92

reactant | (E)-2-acetylthiomethyl-3-phenylpropenoic acid | C(C)(=O)SC\C(\C(=O)O)=C\C1=CC=CC=C1 | C12H12O3S
reactant | ethyl β-alaninate | NCCC(=O)OCC | C5H11NO2
product | ethyl N-(E)-[1-oxo-2-(acetylthiomethyl)-3-phenylpropenyl]-β-alaninate | Yield=68% | O=C(/C(=C\C1=CC=CC=C1)/CSC(C)=O)NCCC(=O)OCC | C17H21NO4S
